US05438052
(6R, 7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4-dihydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (125 mg) (0.2 mmol), 41 mg (0.26 mmol) of 2-(aminooxy)methyl-5-hydroxy-4(1H)-pyrimidinone and 50 mg (0.26 mmol) of p-toluenesulphonic acid hydrate are dissolved in 3 ml of absolute dimethylacetamide. After stirring at room temperature for 14 hours the mixture is concentrated in a high vacuum at room temperature and the residue is treated with water. The product is filtered off and washed in succession with water, ethanol and diethyl ether. There are obtained 160 mg of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[(1,4-dihydro-5-hydroxy-4-oxo-2-pyrimidinyl)methoxy]imino]acetamido]-3-[[[5-(3,4-dihydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[ 4.2.0]oct-2-ene-2-carboxylic acid as a yellow powder.

reactant | (6R, 7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4-dihydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.2 mmol, 125 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=CC2)C2=CC(=C(C=C2)O)O)=O | C25H19N7O7S3
reactant | 2-(aminooxy)methyl-5-hydroxy-4(1H)-pyrimidinone | 0.26 mmol, 41 mg | NOCC=1NC=C(C(N1)=O)O | C5H7N3O3
reactant | p-toluenesulphonic acid hydrate | 0.26 mmol, 50 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[(1,4-dihydro-5-hydroxy-4-oxo-2-pyrimidinyl)methoxy]imino]acetamido]-3-[[[5-(3,4-dihydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[ 4.2.0]oct-2-ene-2-carboxylic acid | 160 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=CC2)C2=CC(=C(C=C2)O)O)=N/OCC=2NC=C(C(N2)=O)O | C30H24N10O9S3
